.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : B06T
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt B06T_freq port1 port2 PARAMS: Cpar=0.1234pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=14.85
+ R2=0.1508
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=182.5
+ L_EL=40.64
+ L_F0=1184E6
+ PkZ=0
.ends B06T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : B07T
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-3.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt B07T_freq port1 port2 PARAMS: Cpar=0.1329pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=16.69
+ R2=0.1778
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=203.6
+ L_EL=44.14
+ L_F0=1143E6
+ PkZ=0
.ends B07T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : B08T
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt B08T_freq port1 port2 PARAMS: Cpar=0.1247pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=26.68
+ R2=0.2304
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=225.3
+ L_EL=48.11
+ L_F0=1082E6
+ PkZ=0
.ends B08T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : B09T
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt B09T_freq port1 port2 PARAMS: Cpar=0.139pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=22.3
+ R2=0.2802
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=254.5
+ L_EL=50.75
+ L_F0=1021E6
+ PkZ=0
.ends B09T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : B10T
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt B10T_freq port1 port2 PARAMS: Cpar=0.1866pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=17.51
+ R2=0.3509
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=269.3
+ L_EL=49.99
+ L_F0=882E6
+ PkZ=0
.ends B10T_freq

